US07544812B2
2-(2-Fluoro-phenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid methyl ester
To a solution of LDA (1.5 M in cyclohexane, 33 mL, 49.5 mmole) in THF (40 mL), at −78° C., is added dropwise a solution of 2-(2-fluoro-phenoxy)-propionic acid ethyl ester (7.70 g, 36.3 mmole) in THF (100 mL). After stirring for 30 minutes at −78° C., a solution of toluene-4-sulfonic acid 4-iodomethyl-phenyl ester (12.8 g, 33.0 mmole) is injected to the reaction mixture. The reaction is stirred at −78° C. for one hour, then warmed up to room temperature and stirred overnight. The reaction is treated with 5.0N NaOH (50 mL) in presence of methanol (200 mL). After evaporating methanol, the aqueous solution is acidified with concentrated HCl to pH=1 and is extracted with ethyl acetate (2×300 mL). The combined organic layers are dried, filtered and concentrated in vacuo. The residue is dissolved in MeOH (200 mL) and treated with concentrated sulfuric acid (2 mL) at 80° C. overnight. The reaction mixture is partitioned between ethyl acetate (500 mL) and water (500 mL), the organic layer is washed by brine (3×500 mL), dried, filtered and concentrated in vacuo. The compound is purified by chromatography (silica gel, gradient elution 0-20% ethyl acetate in hexane) to provide an oil (6.02 g, 60%), which is then resolved by chiral HPLC to generate the enantiomer as an oil (2.30 g). Mass [EI+] 322 (M+NH4)+, [EI−] 303 (M−H)−.

reactant | LDA | 49.5 mmole, 1.5 M, 33 mL | [Li+].CC(C)[N-]C(C)C
reactant | 2-(2-fluoro-phenoxy)-propionic acid ethyl ester | 36.3 mmole, 7.70 g | C(C)OC(C(C)OC1=C(C=CC=C1)F)=O | C11H13FO3
reactant | toluene-4-sulfonic acid 4-iodomethyl-phenyl ester | 33.0 mmole, 12.8 g | ICC1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C14H13IO3S
reactant | NaOH | 5.0N, 50 mL | [OH-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | methanol | 200 mL | CO | CH4O
product | 2-(2-Fluoro-phenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid methyl ester | 6.02 g, 60% | COC(C(CC1=CC=C(C=C1)O)(C)OC1=C(C=CC=C1)F)=O | C17H17FO4
